US08580396B2
In a 250 ml two-neck flask, 30 ml of toluene, 12 ml of water, 0.5 g (0.4 mmol) of Pd(pph3)4, 3.3 g (24 mmol) of potassium carbonate, 1.5 g (12.3 mmol) of phenylboronic acid, 2 g (4.7 mmol) of 3-(3,6-dibromo-9H-carbazol-9-yl)benzonitrile, 20 ml (1 mmol) of PtBu3, and a stir bar were added. The reaction was carried out with stirring and reflux under a nitrogen atmosphere for 24 hours. After the completion of reaction, an extraction was conducted with dichloromethane and water, and the resultant organic layer was further concentrated to obtain a solid product, which was purified by column chromatography to obtain a white solid product of 3-(3,6-diphenyl-9H-carbazol-9-yl)benzonitrile (yield: 69.8%).

reactant | potassium carbonate | 24 mmol, 3.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | phenylboronic acid | 12.3 mmol, 1.5 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | 3-(3,6-dibromo-9H-carbazol-9-yl)benzonitrile | 4.7 mmol, 2 g | BrC=1C=CC=2N(C3=CC=C(C=C3C2C1)Br)C=1C=C(C#N)C=CC1 | C19H10Br2N2
reactant | PtBu3 | 1 mmol, 20 ml | P(C(C)(C)C)(C(C)(C)C)C(C)(C)C | C12H27P
reactant | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(pph3)4 | 0.4 mmol, 0.5 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Pd]
solvent | water | 12 ml | O | H2O
product | 3-(3,6-diphenyl-9H-carbazol-9-yl)benzonitrile | yield: 69.8% | C1(=CC=CC=C1)C=1C=CC=2N(C3=CC=C(C=C3C2C1)C1=CC=CC=C1)C=1C=C(C#N)C=CC1 | C31H20N2
